US04985444
To an ethanol (12 ml) solution of 3-[3-{2-hydroxy-3,3,3-trichloropropyl)pyridazin-4-yl]-2-phenylpyrazolo[1,5-a]pyridine (1.20 g) was added 24% aqueous sodium hydroxide solution (4.8 ml), and refluxed for 5 hours. The reaction mixture was evaporated in vacuo and added 10% hydrochloric acid (12 ml). The precipitates were collected by filtration to give 3-[3-{(E)-2-carboxyvinyl}pyridazin-4-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.64 g).

reactant | 3-[3-{2-hydroxy-3,3,3-trichloropropyl)pyridazin-4-yl]-2-phenylpyrazolo[1,5-a]pyridine | 1.20 g | OC(CC=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C(Cl)(Cl)Cl | C20H15Cl3N4O
reactant | sodium hydroxide | 4.8 ml | [OH-].[Na+]
reactant | ethanol | 12 ml | C(C)O | C2H6O
product | 3-[3-{(E)-2-carboxyvinyl}pyridazin-4-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.64 g | C(=O)(O)/C=C/C=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C20H14N4O2
